US08349851B2
To a solution of ethyl 2-(2-carbamoyl-6-methylphenylamino)-2-oxoacetate (490 mg, 1.96 mmol) and TEA (10.4 mL, 75 mmol) in DCE (20 mL) was added TMS-Cl (3.6 mL, 29 mmol) and the solution was stirred at 80° C. for 16 h. The mixture was concentrated under reduced pressure and the residue was partitioned between DCM (100 mL) and saturated aq NaHCO3. The separated aqueous phase was extracted with DCM (2×100 mL) and the combined organic layers were dried over MgSO4, filtered, and concentrated. The residue was purified by silica gel chromatography eluting with 10-40% EtOAc/hexanes to afford ethyl 4-hydroxy-8-methylquinazoline-2-carboxylate as a solid (330 mg, 72%). 1H NMR (300 MHz, DMSO-d6) δ 1.36 (t, J=7.2 Hz, 3H), 2.58 (s, 3H), 4.39 (q, J=7.2 Hz, 2H), 7.46-7.64 (m, 1H), 7.64 (m, 1H), 8.02 (m, 1H), 12.62 (br s, 1H).

reactant | ethyl 2-(2-carbamoyl-6-methylphenylamino)-2-oxoacetate | 1.96 mmol, 490 mg | C(N)(=O)C1=C(C(=CC=C1)C)NC(C(=O)OCC)=O | C12H14N2O4
reactant | TMS-Cl | 29 mmol, 3.6 mL | [Si](C)(C)(C)Cl | C3H9ClSi
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
product | ethyl 4-hydroxy-8-methylquinazoline-2-carboxylate | 330 mg, 72% | OC1=NC(=NC2=C(C=CC=C12)C)C(=O)OCC | C12H12N2O3
